US06395916B1
Synthesis of 2-Dicvclohexylphosphino-2′-methoxy-1,1′-biphenyl
A solution of 2-bromo-2′methoxy-1,1′-biphenyl (535 mg, 2.03 mmol) in THF (20 mL) was cooled to −78° C. under argon, then n-BuLi (1.6 M in hexane, 1.35 mL, 2.16 mmol) was added dropwise. After 2.5 h at −78° C., a solution of chlorodicyclohexylphosphine (570 mg, 2.45 mmol) in THF (3 mL) was added over 10 min. The reaction mixture was then allowed to warm to room temperature overnight, then quenched with saturated aqueous NaHCO3 and concentrated in vacuo. The resulting aqueous suspension was extracted with ether (2×50 mL), and the combined ethereal layers were dried (Na2SO4), filtered and concentrated in vacuo. The resulting crude solid was recrystallized from ethanol to afford 420 mg (54 %) of a white solid.

reactant | 2-bromo-2′methoxy-1,1′-biphenyl | 2.03 mmol, 535 mg | BrC1=C(C=CC=C1)C1=C(C=CC=C1)OC | C13H11BrO
reactant | n-BuLi | 2.16 mmol, 1.6 M, 1.35 mL | [Li]CCCC
reactant | chlorodicyclohexylphosphine | 2.45 mmol, 570 mg | ClP(C1CCCCC1)C1CCCCC1 | C12H22ClP
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 2-Dicvclohexylphosphino-2′-methoxy-1,1′-biphenyl | 420 mg, 54 % | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)OC)C1CCCCC1 | C25H33OP
